US04006145
7.8 g of 1-(2-chloro-10,11-dihydro-dibenzo[b,f]thiepin--10-yl)-piperazine are treated, together with 11.6 g of powdered potassium carbonate, 0.2 g of potassium iodide and 100 ml of toluene, with 8.22 g of N-(β-chloroethyl)--oxazolidinone and the mixture is heated under reflux for 22 hours. Then the mixture poured on to water and the organic phase washed with saturated soda solution and water, dried over sodium sulphate and concentrated under reduced pressure. There is obtained crude liquid 3-[2-[4-(2-chloro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl]-2-oxazolidinone. The maleate is prepared by treatment with maleic acid in ethanol/ether; melting point 173°-175° C.

reactant | 1-(2-chloro-10,11-dihydro-dibenzo[b,f]thiepin--10-yl)-piperazine | 7.8 g | ClC1=CC2=C(SC3=C(C(C2)N2CCNCC2)C=CC=C3)C=C1 | C18H19ClN2S
reactant | potassium carbonate | 11.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
reactant | N-(β-chloroethyl)--oxazolidinone | 8.22 g | ClCCN1C(OCC1)=O | C5H8ClNO2
solvent | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[2-[4-(2-chloro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl]-2-oxazolidinone | ClC1=CC2=C(SC3=C(C(C2)N2CCN(CC2)CCN2C(OCC2)=O)C=CC=C3)C=C1 | C23H26ClN3O2S
